US05173484
a) 1-Benzyl-3-dimethylaminomethyl-3-hydroxypyrrolidine
9.6 g (50 mmol) of 5-benzyl-5-aza-1-oxaspiro[2,4]heptane are added dropwise to 50 ml of dimethylamine solution (50%) and the mixture is stirred overnight at room temperature. The batch is then concentrated and the residue is distilled.

reactant | 5-benzyl-5-aza-1-oxaspiro[2,4]heptane | 50 mmol, 9.6 g | C(C1=CC=CC=C1)N1CC2(CO2)CC1 | C12H15NO
reactant | dimethylamine | 50 ml | CNC | C2H7N
product | 1-Benzyl-3-dimethylaminomethyl-3-hydroxypyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)(O)CN(C)C | C14H22N2O
